US07462623B2
7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-7-(2-chloroethoxy)6-methoxyquinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 92% yield; NMR Spectrum: (DMSOd6 and CD3CO2D) 4.05 (s, 3H), 4.1 (t, 2H), 4.55 (t, 2H), 6.3 (s, 2H), 7.4 (s, 1H), 7.9 (s, 1H), 8.15 (s, 1H), 8.95 (s, 1H); Mass Spectrum: M+H+ 409 and 411.

reactant | 4-chloro-7-(2-chloroethoxy)6-methoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCl | C11H10Cl2N2O2
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 7-(2-chloroethoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-6-methoxyquinazoline | 92% yield | ClCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1Cl)OCO2)OC | C17H14Cl2N4O4
